US05344843
A mixture of 4,4'-[1,2-ethanediylbis(oxy)bis(alpha-oxobenzeneacetic acid) dimethyl ester (4:1) molar hydrate (0.385 g) in methanol and 0.5N sodium hydroxide (8 mL) was treated as in Example 19. Extraction with tetrahydrofuran provided solids where were crystallized from acetonitrile to give 0.315 g of colorless 4,4'-[1,2-ethanediylbis(oxy) bis(alpha-oxobenzene-acetic acid) acid as an 0.25 molar hydrate, mp 212°-213° C.

reactant | 1,2-ethanediylbis(oxy)bis(alpha-oxobenzeneacetic acid) dimethyl ester | COC(C(C1=C(C=CC=C1)OCCOC1=C(C=CC=C1)C(C(=O)OC)=O)=O)=O | C20H18O8
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
product | 1,2-ethanediylbis(oxy) bis(alpha-oxobenzene-acetic acid) | C(COC1=C(C=CC=C1)C(C(=O)O)=O)OC1=C(C=CC=C1)C(C(=O)O)=O | C18H14O8
